US09326987B2
N-(2-Chloro-5-{4-[5-(4-morpholinylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide
N-(2-Chloro-5-{1-[(4-methylphenyl)sulfonyl]-4-[5-(4-morpholinylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide (52 mg, 0.081 mmol) was placed in isopropanol (3 ml) and 2M sodium hydroxide (1 ml, 2.0 mmol) added. The mixture was stirred at room temperature overnight and blown to dryness under a stream of nitrogen. The mixture was dissolved in water (10 ml) and washed with dichloromethane (10 ml). The organic layer was acidified by the addition of 2M hydrochloric acid and the solvent removed. The residue was purified by Mass Directed Automated Preparative HPLC (Method B) to give the title compound (8 mg).

reactant | N-(2-Chloro-5-{1-[(4-methylphenyl)sulfonyl]-4-[5-(4-morpholinylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide | 0.081 mmol, 52 mg | ClC1=NC=C(C=C1NS(=O)(=O)C)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C=1OC(=NN1)CN1CCOCC1 | C27H26ClN7O6S2
reactant | sodium hydroxide | 2.0 mmol, 2M, 1 ml | [OH-].[Na+]
solvent | isopropanol | 3 ml | C(C)(C)O | C3H8O
solvent | water | 10 ml | O | H2O
product | N-(2-Chloro-5-{4-[5-(4-morpholinylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide | 8 mg | ClC1=NC=C(C=C1NS(=O)(=O)C)C1=CC(=C2C=NNC2=C1)C=1OC(=NN1)CN1CCOCC1 | C20H20ClN7O4S
